### PR TITLE
feat: add smooth local collar diffeomorphisms

### PR DESCRIPTION
**Pull request by sqrt-of-2**
This PR upgrades each product collar chart to a genuine `C^k` diffeomorphism from its open source onto the product of its open boundary part and open normal interval. It advances `TauCetiRoadmap/GeometricTopology/README.md`, Layer 1, the **Collar neighbourhoods** milestone: “A boundary component has a neighbourhood diffeomorphic to ∂M × [0, 1).”

`Collar/Local.lean` now packages the chart source as `IsProductCollarChart.sourceOpens`, its boundary trace as `IsProductCollarChart.sourceBoundaryOpens`, and the half-space interval as `EuclideanHalfSpace.normalIioOpens`. The topological collar is transported to these open-submanifold types as `IsProductCollarChart.homeomorphProdOpens`.

`IsProductCollarChart.diffeomorphProd` reuses that transported equivalence and proves both directions `C^k` using the smooth collar chart, the canonical smooth embedding of the boundary, and Mathlib open-submanifold inclusions. Coordinate formulas characterize both directions, bridge the smooth and topological collars, and show that the collar fixes boundary points with zero normal coordinate. Callers obtain local diffeomorphisms by combining the existing `exists_isProductCollarChart_of_mem_boundary` theorem with `h.diffeomorphProd`.

This is the most effective current step because the canonical boundary manifold, smooth collar coordinates, their product-model manifold structure, and the shrinking to a product box are already on main, while the landed local collar was still only packaged as a homeomorphism. After this PR, the Collar neighbourhoods milestone still needs the global patching theorem producing one smooth product neighbourhood of the entire boundary (and the harmless normal-coordinate rescaling to `[0, 1)`).

No Mathlib infrastructure is vendored. The construction follows Hirsch, *Differential Topology*, Theorem 6.1, and Lee, *Introduction to Smooth Manifolds*, Theorem 9.25, as credited in the module documentation.

Roadmap: GeometricTopology

🤖 Prepared with Codex

### CODE REVIEW

File: TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean
Comment (kbuzzard) [inline TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: ### ✅ api-design — now passing on `262a731`.

Comment (kbuzzard) [inline TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: ### ✅ generality — now passing on `262a731`.

Comment (kbuzzard) [inline TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: ### ✅ proof-quality — now passing on `262a731`.

**Comment by kbuzzard** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The new open-submanifold packaging and `diffeomorphProd` faithfully express the intended smooth local product collar; no semantic weakening, vacuity, or incorrect edge case is evident. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The new diffeomorphism and open-submanifold packaging add genuinely new structure while reusing the existing product-collar homeomorphism and Mathlib smoothness APIs. No material duplication is present. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The smooth local product diffeomorphism directly advances the GeometricTopology Layer 1 collar-neighbourhood milestone and builds coherently on the existing local product-collar infrastructure as a single topic. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The module documentation credits the central informal sources—Hirsch, Theorem 6.1, and Lee, Theorem 9.25—and no copied or closely adapted external formalization is evident. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The characteristic API is complete and appropriately annotated; the previously contested `map_diffeomorphProd_fst` now carries `@[simp]`, while leaving the ambient coercion formulas untagged avoids the documented `simpNF` conflicts. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations are at the natural level: collar-specific open submanifolds are coherently keyed to the product-collar witness, while `normalIioOpens` is independently generalized. The `k ≠ 0` condition is necessary to obtain the canonical boundary manifold structure; the unrestricted topological case is already represented by `homeomorphProdOpens`. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The smooth upgrade is naturally placed in Boundary/Collar/Diffeomorph, while its topological open-subspace packaging appropriately remains in Collar/Local. The sole import of Collar/Local directly matches the extended API. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions, align with adjacent collar APIs and Mathlib terminology, and introduce no notation. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The new module and public declarations are documented accurately, including the local scope of the diffeomorphism and the remaining need for global patching. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The prior undocumented definitional-equality concern has been resolved; the current proofs use explicit coercion and lifting lemmas and are readable and robust. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/c3708a6055e44385af4b8eb189832fe542ea0940...262a731d8d55311a36bd1b3f37d05764197551d2) at head `262a731`. rubrics @ [`f854a7e`](https://github.com/TauCetiProject/TauCetiReview/tree/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics). Review spend: $2.52.</sub>

File: TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean
Comment (sqrt-of-2) [reply TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: I tested the suggested `@[simp]` annotation against the repository’s actual environment-lint gate. With the annotation present, `scripts/lint-env.sh` failed with a new `simpNF` violation on `TauCeti.IsProductCollarChart.map_diffeomorphProd_fst`: its left-hand side simplifies via `coe_diffeomorphProd_fst` from `φ ↑↑((h.diffeomorphProd hk) y).1` to `φ (φ.symm ((φ ↑y).1, 0))`. The gate explicitly requires changing the LHS instead. That simplification would make this theorem cease to be the requested composed-coordinate normal form, while retaining `@[simp]` is forbidden by the repo lint policy. The annotation was therefore not added; this is also exactly why commit df5d190 removed it.

Comment (kbuzzard) [inline TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: ### ✅ reuse — now passing on `262a731`.

Comment (kbuzzard) [inline TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: ### ✅ placement — now passing on `e313bc8`.

Comment (kbuzzard) [inline TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: ### ✅ naming — now passing on `e313bc8`.

Comment (kbuzzard) [inline TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: ### 🟡 documentation — request_changes  `claude/claude-opus-5`

All new public declarations are documented and the Diffeomorph.lean header is accurate about scope, but Local.lean's module docstring was not updated for the API this PR adds to it, and its implementation note still tells readers the smooth identification is an untaken step. The diffeomorphProd docstrings also name the wrong intermediate.

- `TauCeti/Geometry/Manifold/Boundary/Collar/Local.lean:59` — Stale implementation note: "identifying that manifold structure with the one the chart transports is a separate step. What is smooth here is the chart itself" — this PR takes that step in `Boundary.Collar.Diffeomorph`, and the note gives no pointer, so a reader of Local.lean concludes the smooth version does not exist. _Fix:_ Add a sentence naming `TauCeti.IsProductCollarChart.diffeomorphProd` in `Boundary.Collar.Diffeomorph` as where that identification is now carried out.
- `TauCeti/Geometry/Manifold/Boundary/Collar/Local.lean:26` — The "## Main definitions" list is unchanged while the PR adds public API to the file: `EuclideanHalfSpace.normalIioOpens`, `EuclideanHalfSpace.homeomorphNormalIioOpens`, `IsProductCollarChart.sourceOpens`, `sourceBoundaryOpens`, and `homeomorphProdOpens` — the last being the object the whole new file is built on. _Fix:_ List `TauCeti.IsProductCollarChart.homeomorphProdOpens` (and the `sourceOpens`/`sourceBoundaryOpens`/`normalIioOpens` packaging) in Main definitions.
- `TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:244` — Inaccurate: "Its underlying equivalence is the existing `IsProductCollarChart.homeomorphProd`, transported across the canonical identification of the boundary factor." It is `homeomorphProdOpens.toEquiv`, which repackages source, boundary factor and normal factor (`↥(normalIio ε)` → `normalIioOpens ε`), not the boundary factor alone. The module docstring (lines 19-21) repeats the same description. _Fix:_ Name `IsProductCollarChart.homeomorphProdOpens` as the bridge and say all three factors are re-read as open subspaces, in both the module docstring and the `diffeomorphProd` docstring.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 139s · 48 in / 10.9k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/c3708a6055e44385af4b8eb189832fe542ea0940...e313bc8d67641e58e7e6c26c5051bc9084bd3dac) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/documentation.md)</sub>

Comment (kbuzzard) [reply TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `036bc8e`; the finding stands — The exposed diffeomorphism lacks the lemma that makes it a collar — that it restricts to the identity on the boundary — and the two simp-annotated coordinate lemmas fight, leaving map_diffeomorphProd_fst dead under simp. The new existence theorem is a redundant restatement of exists_isProductCollarChart_of_mem_boundary, and nothing connects the new local collar to the existing homeomorphProd.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3837361392.</sub>

Comment (sqrt-of-2) [reply TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: Fixed the first two; contesting the third, because it is the exact change this branch already made and the `naming` rubric reversed.

**1 (`coe_diffeomorphProd_snd_of_mem_boundary`) — fixed.** Deleted outright rather than re-derived: the `api-design` thread on this same head asks for deletion ("_Fix:_ Delete `coe_diffeomorphProd_snd_of_mem_boundary`; `diffeomorphProd_apply_of_mem_boundary` gives it by `congrArg`"), and `reuse` allows it ("or drop it").

**2 (identity homeomorphisms) — fixed.** `EuclideanHalfSpace.homeomorphNormalIioOpens` and the private `sourceHomeomorphOpens` are both gone; `homeomorphProdOpens` is now `h.homeomorphProd.trans (h.sourceInterHomeomorphSourceBoundaryOpens.prodCongr (Homeomorph.refl _))`, i.e. no repackaging homeomorphism at all in the two directions where the types are definitionally equal.

**3 (`sourceOpens` taking `_h`) — contested.** This is a two-rubric cycle, not an unaddressed finding:

* Round 1 of this rubric asked for exactly the proposed shape, and commit `036bc8e` ("fix: generalize local collar opens — Define the source, boundary, and normal open submanifolds from only the chart data they use") implemented it verbatim: `def sourceOpens (φ : OpenPartialHomeomorph M (EuclideanSpace ℝ (Fin n) × EuclideanHalfSpace 1)) : TopologicalSpace.Opens M := ⟨φ.source, φ.open_source⟩`.
* The `naming` rubric then required the reverse. Its verdict on the current head (✅ approved, round 2) records this explicitly: "*The four prior naming findings (**namespace of the `Opens` definitions**, `boundaryOpens`, and the `exists_diffeomorphProd_of_mem_boundary` name) are resolved at this head.*" The resolution was keying the definitions to `h` so that `TauCeti.IsProductCollarChart.sourceOpens` is about an `IsProductCollarChart`. Applying this finding re-introduces a chart-argument declaration in the `IsProductCollarChart` namespace and turns that green rubric red again.

The one namespace that would satisfy both — `OpenPartialHomeomorph`, so that `φ.sourceOpens` elaborates — is forbidden by the repo's own lint. Adding `def sourceOpens (φ : OpenPartialHomeomorph M …)` under `namespace TauCeti.OpenPartialHomeomorph` in `Local.lean`:

```
$ python3 scripts/lint-dot-notation.py ; echo "EXIT=$?"
lint-dot-notation: 1154 total, 1293 grandfathered, 1 new, 140 ratchetable

A Mathlib type's namespace is nested inside `namespace TauCeti`, so dot
notation on that type does not elaborate. Move the declaration to the type's
root namespace. …

  TauCeti/Geometry/Manifold/Boundary/Collar/Local.lean:241: TauCeti.OpenPartialHomeomorph.sourceOpens
EXIT=1
```

versus `0 new`, `EXIT=0` on the pushed head. Moving to root `namespace OpenPartialHomeomorph` is not available either: everything in this repo lives under `namespace TauCeti`.

On the substance: `_h : IsProductCollarChart k φ V ε` is a `Prop` argument, so it is proof-irrelevant and costs no generality. `h.sourceOpens` *is* `⟨φ.source, φ.open_source⟩` for every `h` — `mem_sourceOpens : x ∈ h.sourceOpens ↔ x ∈ φ.source` is `Iff.rfl` and is what call sites use — so no statement about `homeomorphProdOpens` or `diffeomorphProd` is applicable to fewer charts than the chart-keyed version would be. What the binder buys is one uniform dot-notation surface for the collar: `h.sourceOpens`, `h.sourceBoundaryOpens`, `h.homeomorphProd`, `h.homeomorphProdOpens`, `h.diffeomorphProd`.

Comment (sqrt-of-2) [reply TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: All five items addressed. One sub-suggestion could not be taken literally; details below.

1. **Private restatements — deleted.** `source_mem`, `sourceSubtype_mem`, `normalIio_mem`, `coe_prodEquiv_snd` and `map_prodEquiv_fst` are all gone, together with the `prodEquiv` layer itself: the smoothness lemmas are now stated directly about `h.homeomorphProdOpens`, and `coe_diffeomorphProd_snd` / `map_diffeomorphProd_fst` are one-line applications of `h.coe_homeomorphProdOpens_snd` / `h.map_homeomorphProdOpens_fst`.

   The one part I could not apply is "use … `y.2`/`t.2` directly at the call sites". Under the module system `sourceOpens`, `sourceBoundaryOpens`, `normalIio` and `normalIioOpens` are public but **not exposed**, so `y.2` does not defeq-unfold across the module boundary:

   ```
   error: …/Diffeomorph.lean:252:60: Application type mismatch: The argument
     y.property
   has type
     ↑y ∈ h.sourceOpens
   but is expected to have type
     ↑y ∈ φ.source
   in the application
     h.mem_boundary_iff (↑y) y.property

   Note: The following definitions were not unfolded because their definition is not exposed:
     sourceOpens ↦ 7
   ```

   The compilable form of the same instruction is to use the `Iff.rfl` bridges from `Local.lean` inline — `h.mem_sourceOpens.1 y.2`, `h.mem_sourceBoundaryOpens.1 p.1.2` — which is what the pushed head does at every call site. No private restatement remains.

2. **Bridging lemmas — replaced.** `coe_diffeomorphProd_fst_eq_homeomorphProd_fst` and `coe_diffeomorphProd_snd_eq_homeomorphProd_snd` are gone, replaced by the single `coe_diffeomorphProd : ⇑(h.diffeomorphProd hk) = ⇑h.homeomorphProdOpens`; callers compose it with the `Local.lean` bridges. (It is proved `funext fun _ ↦ rfl` rather than `rfl`: the bare `rfl` is rejected because `diffeomorphProd` is not exposed — "*Not a definitional equality: … `⇑(h.diffeomorphProd hk)` … This theorem is exported from the current module*" — and the pointwise form goes through without `@[expose]`.)

3. **Repeated `contMDiffOn → contMDiffAt` idiom — factored.** Three private lemmas now carry it: `contMDiffAt_chart`, `contMDiffAt_chart_symm` and `contMDiff_coe_chart`. All five sites use them; the duplicated `hφ` block is gone.

4. **Hand-rolled identity homeomorphisms — deleted.** Rather than `Homeomorph.setCongr rfl`, both are removed entirely: `homeomorphProdOpens` is `h.homeomorphProd.trans (h.sourceInterHomeomorphSourceBoundaryOpens.prodCongr (Homeomorph.refl _))`, so the source and normal factors need no repackaging map at all.

5. **`coe_diffeomorphProd_snd_of_mem_boundary` — deleted**, taking the "or drop it" option (the `api-design` thread on this head asks for deletion outright).

`lake build` and `lake exe axioms` are green on the pushed head, as are `scripts/lint-env.sh`, `scripts/lint-dot-notation.py` and `lake exe module-system`.

Comment (CBirkbeck) [inline TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: ### 🟡 api-design — request_changes  `codex/gpt-5.6-sol`

Several canonical evaluation formulas are exposed without the simp annotations needed for the diffeomorphism API to reduce to collar coordinates automatically.

- `TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:199` — The characteristic normal-form lemmas `coe_diffeomorphProd`, `coe_diffeomorphProd_fst` (line 205), `coe_diffeomorphProd_symm` (line 220), and `diffeomorphProd_apply_of_mem_boundary` (line 252) lack `@[simp]`, unlike the parallel second-coordinate and mapped-coordinate formulas. _Fix:_ Add `@[simp]` to these four one-way reductions so applications, inverse applications, and boundary values normalize to the underlying collar formulas.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 56s · 248.1k in / 2.2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/c3708a6055e44385af4b8eb189832fe542ea0940...0477dcc2bcfa4db526e82ff55a67dca0201f776a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/api-design.md)</sub>

Comment (CBirkbeck) [inline TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: ### 🟡 generality — request_changes  `codex/gpt-5.6-sol`

The local diffeomorphism API unnecessarily excludes the natural C⁰ case.

- `TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:184` — `diffeomorphProd` requires `hk : k ≠ 0`, although at `k = 0` its underlying homeomorphism already supplies both required C⁰ maps; this restriction propagates unnecessarily through every characteristic theorem at lines 199–252. _Fix:_ Define `diffeomorphProd` for all `k`, splitting on `k = 0`: use `contMDiff_zero_iff` and the continuity of `homeomorphProdOpens` and its inverse in the zero case, and retain the current boundary-manifold argument otherwise; then remove `hk` from the characteristic lemmas.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 40s · 163.3k in / 1.7k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/c3708a6055e44385af4b8eb189832fe542ea0940...0477dcc2bcfa4db526e82ff55a67dca0201f776a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/generality.md)</sub>

**Comment by CBirkbeck** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The new diffeomorphism faithfully upgrades the existing product-collar homeomorphism, with both directions proved C^k and coordinate formulas matching the collar chart. No semantic mismatch, vacuity, or hidden prerequisite was found. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The PR adds a genuinely new smooth local-collar diffeomorphism and appropriately reuses the existing topological collar, chart smoothness results, boundary embedding, and Mathlib open-submanifold API. No material duplication or replaceable reimplementation was found. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR is a coherent smooth upgrade of the existing local product collar and directly advances the GeometricTopology Layer 1 collar-neighbourhood milestone. The required boundary manifold, product collar chart, and local product homeomorphism already exist, so this is a proximate next step rather than speculative infrastructure. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The new module credits the central informal sources—Hirsch, Theorem 6.1, and Lee, Theorem 9.25—in its documentation, and no vendored or closely adapted external formalization is evident. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/api-design.md) | changes requested | `codex/gpt-5.6-sol` | Several canonical evaluation formulas are exposed without the simp annotations needed for the diffeomorphism API to reduce to collar coordinates automatically. |
| 🟡 | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/generality.md) | changes requested | `codex/gpt-5.6-sol` | The local diffeomorphism API unnecessarily excludes the natural C⁰ case. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The new smooth collar material is naturally placed in `Boundary/Collar/Diffeomorph.lean`, while its topological open-subspace prerequisites appropriately remain in `Local.lean`; the sole new import follows the existing dependency chain and is not evidently excessive. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their declarations, follow adjacent collar API terminology, and add no notation. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The new module and all added public declarations have accurate, useful documentation describing their mathematical content and scope. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The new proofs are readable and robust, with definitional-equality uses explicitly documented and substantial smoothness arguments factored into focused private lemmas. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/c3708a6055e44385af4b8eb189832fe542ea0940...0477dcc2bcfa4db526e82ff55a67dca0201f776a) at head `0477dcc`. rubrics @ [`f854a7e`](https://github.com/TauCetiProject/TauCetiReview/tree/f854a7e1bf95d7182f672ea06e690d08b07e06a5/rubrics). Review spend: $2.23.</sub>

File: TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean
Comment (CBirkbeck) [reply TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `0477dcc`; this clears the finding ✅ — approved on `0477dcc`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3837585808.</sub>

Comment (CBirkbeck) [reply TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `0477dcc`; the finding stands — Several canonical evaluation formulas are exposed without the simp annotations needed for the diffeomorphism API to reduce to collar coordinates automatically.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3837361392.</sub>

Comment (CBirkbeck) [reply TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: **Re: your reply on `generality` —** re-reviewed on `0477dcc`; the finding stands — The local diffeomorphism API unnecessarily excludes the natural C⁰ case.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3837585286.</sub>

Comment (sqrt-of-2) [reply TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: One of the four tags is now on the branch; the other three are refuted by `simpNF`, which CI enforces and which this repo forbids silencing.

**Added:** `@[simp] diffeomorphProd_apply_of_mem_boundary` (commit `262a731d`). Tagged alone it lints clean.

**Refuted — the three others each break an *already tagged* sibling.** Each block below is the verbatim `#lint only simpNF simpComm synTaut unusedArguments in TauCeti.Geometry.Manifold.Boundary.Collar` output with *only* the named lemma tagged, everything else at the reviewed head.

1. `coe_diffeomorphProd` — its left-hand side is `⇑(h.diffeomorphProd hk)` itself, so it eats every other `diffeomorphProd` formula. Tagging it makes the two lemmas the finding cites as the good precedent redundant:

```
-- Found 2 errors in 97 declarations ... with 4 linters
#check @TauCeti.IsProductCollarChart.coe_diffeomorphProd_snd /- simp can prove this:
  by simp only [*,
 @TauCeti.IsProductCollarChart.coe_diffeomorphProd,
 @TauCeti.IsProductCollarChart.coe_homeomorphProdOpens_snd] -/
#check @TauCeti.IsProductCollarChart.map_diffeomorphProd_fst /- simp can prove this:
  by simp only [*,
 @TauCeti.IsProductCollarChart.coe_diffeomorphProd,
 @TauCeti.IsProductCollarChart.map_homeomorphProdOpens_fst] -/
```

2. `coe_diffeomorphProd_fst`:

```
-- Found 1 error in 97 declarations ... with 4 linters
#check @TauCeti.IsProductCollarChart.map_diffeomorphProd_fst /- Left-hand side simplifies from
  ↑φ ↑↑((h.diffeomorphProd hk) y).1
to
  ↑φ (↑φ.symm ((↑φ ↑y).1, 0))
using
  simp only [*, @TauCeti.IsProductCollarChart.coe_diffeomorphProd_fst]
Try to change the left-hand side to the simplified term! -/
```

3. `coe_diffeomorphProd_symm`:

```
-- Found 1 error in 97 declarations ... with 4 linters
#check @TauCeti.IsProductCollarChart.map_diffeomorphProd_symm /- Left-hand side simplifies from
  ↑φ ↑((Diffeomorph.symm (h.diffeomorphProd hk)) p)
to
  ↑φ (↑φ.symm ((↑φ ↑↑p.1).1, ↑p.2))
using
  simp only [*, @TauCeti.IsProductCollarChart.coe_diffeomorphProd_symm]
Try to change the left-hand side to the simplified term! -/
```

Tagging all four at once, as the finding asks, is all four errors together.

The requested "Try to change the left-hand side" is not available here: for (2) and (3) the simplified left-hand sides are `φ (φ.symm …)`, i.e. the chart inverse law under a side condition (`h.mk_mem_target`) that `simp` cannot discharge on its own, so restating `map_diffeomorphProd_fst`/`map_diffeomorphProd_symm` at those forms would turn the two *good* normal forms into unusable statements. For (1), the only way to keep it is to untag `coe_diffeomorphProd_snd` and `map_diffeomorphProd_fst` — the very "parallel second-coordinate and mapped-coordinate formulas" this finding holds up as the standard.

On automation: the goal the finding wants closed is closed. `simp` normalizes the second coordinate and both mapped coordinates through the three tags already present, and `coe_diffeomorphProd`/`coe_diffeomorphProd_fst`/`coe_diffeomorphProd_symm` remain the `rw` entry points for the ambient-valued forms, which is what they are for. `lake build`, `lake exe axioms`, `scripts/lint-env.sh`, `scripts/lint-dot-notation.py` and `lake exe module-system` are all green on `262a731d`.

Comment (sqrt-of-2) [reply TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: Contested: `hk : k ≠ 0` is not a restriction on the proof, it is what makes the *statement* elaborate. Dropping it does not weaken `diffeomorphProd`; it deletes its type.

**1. Without `hk` the target has no charted-space structure.** The codomain `↥h.sourceBoundaryOpens × ↥(EuclideanHalfSpace.normalIioOpens ε)` lives over the canonical boundary manifold, whose charted-space instance is

```
#check @TauCeti.boundaryChartedSpace
@TauCeti.boundaryChartedSpace : {n : ℕ} → {M : Type u_1} → [TopologicalSpace M] →
  [ChartedSpace (EuclideanHalfSpace (n + 1)) M] →
  [IsManifold (𝓡∂ n + 1) 1 M] → ChartedSpace (EuclideanSpace ℝ (Fin n)) ↑(ModelWithCorners.boundary M)
```

`[IsManifold (𝓡∂ (n + 1)) 1 M]` is exactly what the `let _ : IsManifold (𝓡∂ (n + 1)) 1 M := IsManifold.of_le (ENat.one_le_iff_ne_zero_withTop.2 hk)` in the type of `diffeomorphProd` supplies, and `ENat.one_le_iff_ne_zero_withTop` needs `k ≠ 0`. The section's `[IsManifold (𝓡∂ (n + 1)) k M]` gives nothing at `k = 0`. Writing the proposed signature verbatim against the reviewed head:

```lean
example (h : IsProductCollarChart k φ V ε) :
    Diffeomorph (𝓡∂ (n + 1)) ((𝓡 n).prod (𝓡∂ 1))
      h.sourceOpens (h.sourceBoundaryOpens × EuclideanHalfSpace.normalIioOpens ε) k :=
  sorry
```

```
error(lean.synthInstanceFailed): failed to synthesize instance of type class
  ChartedSpace (ModelProd (EuclideanSpace ℝ (Fin n)) (EuclideanHalfSpace 1))
    (↥h.sourceBoundaryOpens × ↥(EuclideanHalfSpace.normalIioOpens ε))
```

So there is no `k = 0` case to split on: `contMDiff_zero_iff` and the continuity of `homeomorphProdOpens` are about the two fields, but the structure they would fill has not been formed. The proposed fix addresses the proof and not the obstruction.

**2. The C⁰ statement already exists on `main`, and is more general than the proposal.** Grant the missing instance as an extra `[IsManifold (𝓡∂ (n + 1)) 1 M]` binder — the only way to reach `k = 0` — and what you get is, by `contMDiff_zero_iff : ContMDiff I I' 0 f ↔ Continuous f`, precisely a homeomorphism. That object is already public, and it needs *no* manifold hypothesis at all:

```
#check @TauCeti.IsProductCollarChart.homeomorphProdOpens
@TauCeti.IsProductCollarChart.homeomorphProdOpens : {n : ℕ} → {k : ℕ∞ω} → {M : Type u_1} →
  [TopologicalSpace M] → [ChartedSpace (EuclideanHalfSpace (n + 1)) M] → … →
  (h : TauCeti.IsProductCollarChart k φ V ε) →
    ↥h.sourceOpens ≃ₜ ↥h.sourceBoundaryOpens × ↥(TauCeti.EuclideanHalfSpace.normalIioOpens ε)
```

and `coe_diffeomorphProd : ⇑(h.diffeomorphProd hk) = ⇑h.homeomorphProdOpens` records that `diffeomorphProd` is its smooth upgrade. So the "excluded C⁰ case" is not excluded from the repository — it is the landed `Local.lean` declaration this file is built on, available for every `k` and under strictly weaker hypotheses than the k-split version would be. Adding a `k = 0` branch would re-derive it behind an extra `IsManifold … 1 M` binder, i.e. a strictly less general duplicate of an existing public declaration — which is what the `reuse` rubric (✅ on this head, and which asked in an earlier round for exactly this derivation direction) flagged the previous version of this file for.

The `hk` binder therefore costs no generality: at every `k` where the statement can be formed, it is available, and where it cannot, `homeomorphProdOpens` already covers the content.

Comment (kbuzzard) [reply TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `262a731`; this clears the finding ✅ — approved on `262a731`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3837585808.</sub>

Comment (kbuzzard) [reply TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `262a731`; this clears the finding ✅ — approved on `262a731`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3837737559.</sub>

Comment (kbuzzard) [reply TauCeti/Geometry/Manifold/Boundary/Collar/Diffeomorph.lean:1]: **Re: your reply on `generality` —** re-reviewed on `262a731`; this clears the finding ✅ — approved on `262a731`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3837738219.</sub>
